US06875760B2
3-(Piperidine-1-sulfonyl)phenylamine was prepared as described above from 1-(3-nitro-benzenesulfonyl)piperidine. 3-Isocyanato-N,N-dimethylbenzenesulfonamide

reactant | 1-(3-nitro-benzenesulfonyl)piperidine | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1CCCCC1 | C11H14N2O4S
reactant | 3-Isocyanato-N,N-dimethylbenzenesulfonamide | N(=C=O)C=1C=C(C=CC1)S(=O)(=O)N(C)C | C9H10N2O3S
product | 3-(Piperidine-1-sulfonyl)phenylamine | N1(CCCCC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H16N2O2S
